US09260397B2
1-(4-methylphenyl)-3-ethyl imidazolium bromide
According to the general synthesis procedure 6.32 mmol (1.00 g) 1-(4-Methylphenyl)imidazole and 7.58 mmol (0.826 g, 0.60 ml) bromoethane are dissolved in 5 ml THF and heated for 7 h to 90° C.

reactant | 1-(4-Methylphenyl)imidazole | 6.32 mmol, 1.00 g | CC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2
reactant | bromoethane | 7.58 mmol, 0.60 ml, 0.826 g | BrCC | C2H5Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-methylphenyl)-3-ethyl imidazolium bromide | [Br-].CC1=CC=C(C=C1)[N+]1=CN(C=C1)CC | InChI=1S/C12H15N2.BrH/c1-3-13-8-9-14(10-13)12-6-4-11(2)5-7-12;/h4-10H,3H2,1-2H3;1H/q+1;/p-1
